US05128355
To a solution of 7.50 mL of 1.6M n-butyllithium/hexane in 50 mL of tetrahydrofuran at 0° was added dropwise 1.50 mL of t-butanol. To this solution was added 4.52 g of 1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole followed by 1.50 ml of 2-methoxyethoxymethyl chloride. The resulting solution was stirred at 25° for 16 hours. The mixture was diluted with diethyl ether, washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography afforded 3.50 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole. NMR (200 MHz, CDCl3) δ 7.83 (d, 1H); 7.52 (t, 1H); 7.40 (t, 1H), 7.28 (m, 3H); 7.00 (d, 1H); 5.19 (s, 2H); 4.68 (s, 2H); 4.48 (s, 2H); 3.67 (m, 2H); 3.64 (s, 3H); 3.54 (m, 2H); 3.37 (s, 3H); 2.58 (t, 2H); 1.67 (quint., 2H); 1.34 (sext., 2H); 0.88 (t, 3H).

reactant | n-butyllithium hexane | 1.6M, 7.50 mL | C(CCC)[Li].CCCCCC
reactant | t-butanol | 1.50 mL | C(C)(C)(C)O | C4H10O
reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 4.52 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C23H25ClN2O3
reactant | 2-methoxyethoxymethyl chloride | 1.50 ml | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 3.50 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C27H33ClN2O5
